US07186729B2
Step 1:1-Benzyl-3,3-dimethyl-piperidin-4-one
To a solution of 1-Benzyl-3-methyl-piperidin-4-one (2.03 g, 10 mmol) in THF (10 mL) was added potassium t-Butoxide (1.1 g, 10 mmol) and methyl iodide (0.62 mL, 10 mmol). The solution was then stirred at room temperature for about 72 hours. The reaction was quenched with brine and extracted with ethyl acetate. The combined organic layers were concentrated in vacuo, then purified by flash chromatography on silica gel (35 g SiO2, gradient elution from 100% hexane to 100% ethyl acetate) to yield the title compound as a colorless oil.

reactant | 1-Benzyl-3-methyl-piperidin-4-one | 10 mmol, 2.03 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | potassium t-Butoxide | 10 mmol, 1.1 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 10 mmol, 0.62 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3,3-dimethyl-piperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
